US07230133B2
N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-N′-[3-(3-ethyl-ureido)-5-trifluoromethyl-phenyl]-malonamide
The compound (2,4-dimethyl-benzyl)-[(2S,3S)-2-{2-[3-(3-ethyl-ureido)-5-trifluoromethyl-phenylcarbamoyl]-acetylamino}-3-hydroxy-hexyl]-carbamic acid benzyl ester was dissolved in MeOH (2 mL). This solution was charged with 5% Pd/C, Degussa style (11 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. Purification of the residue by reverse-phase HPLC provided the title compound as a white powder after lyopholization. MS found: (M+H)+=566.3.

reactant | (2,4-dimethyl-benzyl)-[(2S,3S)-2-{2-[3-(3-ethyl-ureido)-5-trifluoromethyl-phenylcarbamoyl]-acetylamino}-3-hydroxy-hexyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C[C@@H]([C@H](CCC)O)NC(CC(NC1=CC(=CC(=C1)C(F)(F)F)NC(=O)NCC)=O)=O)CC1=C(C=C(C=C1)C)C)=O | C36H44F3N5O6
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-N′-[3-(3-ethyl-ureido)-5-trifluoromethyl-phenyl]-malonamide | CC1=C(CNC[C@@H]([C@H](CCC)O)NC(CC(=O)NC2=CC(=CC(=C2)C(F)(F)F)NC(=O)NCC)=O)C=CC(=C1)C | C28H38F3N5O4
